US07135587B2
prepared by reaction of 3-(3,5-dichlorophenyl)-3-(9H-fluoren-9-ylmethoxycarbonylamino)propionic acid with the solid phase polystyrene A OH (Rapp, Art. No. HA 1 400 00), is reacted with [2-(pyridin-2-ylamino)ethoxycarbonylamino]acetic acid and cleaved off from the support, giving 3-(3,5-dichlorophenyl)-3-{2-[2-(pyridin-2-ylamino)ethoxycarbonylamino]ethanoylamino}propionic acid.

reactant | 3-(3,5-dichlorophenyl)-3-(9H-fluoren-9-ylmethoxycarbonylamino)propionic acid | ClC=1C=C(C=C(C1)Cl)C(CC(=O)O)NC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12 | C24H19Cl2NO4
reactant | [2-(pyridin-2-ylamino)ethoxycarbonylamino]acetic acid | N1=C(C=CC=C1)NCCOC(=O)NCC(=O)O | C10H13N3O4
product | 3-(3,5-dichlorophenyl)-3-{2-[2-(pyridin-2-ylamino)ethoxycarbonylamino]ethanoylamino}propionic acid | ClC=1C=C(C=C(C1)Cl)C(CC(=O)O)NC(CNC(=O)OCCNC1=NC=CC=C1)=O | C19H20Cl2N4O5
